US07750150B2
(7) Preparation of 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide hydrochloride
After dissolving 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide (1.00 g, 1.56 mmol) in ethanol (20 mL), pyridine hydrochloride (360 mg, 3.12 mmol) was added. The reaction mixture was concentrated, and the residue was recrystallized from ethanol to obtain the title compound (787 mg, 78%; including 40% equivalent of ethanol as determined by 1H-NMR) as a colorless crystalline powder.

reactant | 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide | 1.56 mmol, 1.00 g | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F)C=C1F | C25H26F8N6O3S
reactant | pyridine hydrochloride | 3.12 mmol, 360 mg | Cl.N1=CC=CC=C1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide hydrochloride | 787 mg | Cl.FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F)C=C1F | InChI=1S/C25H26F8N6O3S.ClH/c1-14-8-19(41-12-24(28,29)30)21(22(34-14)42-13-25(31,32)33)37-20(40)11-39-4-2-38(3-5-39)6-7-43-23-35-17-9-15(26)16(27)10-18(17)36-23;/h8-10H,2-7,11-13H2,1H3,(H,35,36)(H,37,40);1H
